### ISSUE TITLE
`simp_all` should use dependent local hypotheses

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1194]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

As far as I can understand `ctx.simpTheorems` could be populated from all local hypotheses, not just from non-dependent ones:

https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Simp/SimpAll.lean#L41

### Steps to Reproduce

```lean
variable {f: Fin l} {f₀: Fin 0} (h: l = 0) (h': (h▸f) = f₀)
example: l = 0              := by simp_all
example (h'': l ≠ 0): False := by simp_all

-- it works:
example: l = 0              := by simp[*] at *
example (h'': l ≠ 0): False := by simp[*] at *
```

**Expected behavior:** examples should work

**Actual behavior:** get `unsolved goals` error messages:

```
unsolved goals
l : Nat
f : Fin l
f₀ : Fin 0
h : l = 0
h' : h ▸ f = f₀
⊢ l = 0
```
```
unsolved goals
l : Nat
f : Fin l
f₀ : Fin 0
h : l = 0
h' : h ▸ f = f₀
h'' : ¬l = 0
⊢ False
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-06-06`
